US07943622B2
Step 2. Synthesis of morpholino(2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazol-4-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(4-(morpholine-4-carbonyl)thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (35.4 mg, 0.0723 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure, yielding 33.2 mg (99%) of the title compound. LC-MS: RT=2.33 min, (M+H)+=390.6.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(4-(morpholine-4-carbonyl)thiazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.0723 mmol, 35.4 mg | N1(CCOCC1)C(=O)C=1N=C(SC1)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C23H31N5O5S
solvent | MeOH | 1 mL | CO | CH4O
product | morpholino(2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)thiazol-4-yl)methanone dihydrochloride | 33.2 mg, 99% | Cl.Cl.O1CCN(CC1)C(=O)C=1N=C(SC1)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C18H23N5O3S.2ClH/c24-17(22-6-8-25-9-7-22)16-13-27-18(21-16)23-5-4-20-10-14(23)12-26-15-2-1-3-19-11-15;;/h1-3,11,13-14,20H,4-10,12H2;2*1H
